US07816558B2
3-Methylbutyl nitrate was dissolved in a tetrahydrofuran solution of ethyl 4-amino-3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate, followed by heating under reflux for 5 hours to obtain ethyl 3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate. AP: 311.

reactant | 3-Methylbutyl nitrate | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
reactant | ethyl 4-amino-3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate | NC=1C(=NSC1C(=O)OCC)C1=CC(=C(C=C1)OC)C#N | C14H13N3O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate | C(#N)C=1C=C(C=CC1OC)C1=NSC(=C1)C(=O)OCC | C14H12N2O3S
